US04036872
Crude 7-{7-(3-hydroxy-3-methyl-5-ethoxypent-1-enyl)-1,4-dioxaspiro[4,4]non-6-yl}heptanoic acid (0.38 g.), water (8 ml.) and glacial acetic acid (16 ml.) were left to stand at room temperature for 6 hours. The solution was then evaporated in vacuo at a temperature lower than 50° C. Ethyl acetate (150 ml.) was added, and then the solution washed with water (until the pH of the washings was pH 5), dried over sodium sulphate, and evaporated to give 7-[5-(3-hydroxy-3-methyl-5-ethoxypent-1-enyl)-2-oxocyclopentyl]heptanoic acid (0.36 g.), νmax 980 cm-1, 1700 cm-1, 1730 cm-1.

reactant | 7-{7-(3-hydroxy-3-methyl-5-ethoxypent-1-enyl)-1,4-dioxaspiro[4,4]non-6-yl}heptanoic acid | 0.38 g | OC(C=CC1C(C2(OCCO2)CC1)CCCCCCC(=O)O)(CCOCC)C | C22H38O6
reactant | water | 8 ml | O | H2O
solvent | acetic acid | 16 ml | C(C)(=O)O | C2H4O2
product | 7-[5-(3-hydroxy-3-methyl-5-ethoxypent-1-enyl)-2-oxocyclopentyl]heptanoic acid | 0.36 g | OC(C=CC1CCC(C1CCCCCCC(=O)O)=O)(CCOCC)C | C20H34O5
